US06548694B2
The (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester hydrochloride (172 mg) described in example 1.6 was suspended in THF (1.1 ml). A solution of NaOH (0.82 ml, 1 M in H2O) was added and stirred for 30 min at 0° C. and for 40 min at room temperature. 1M HCl (0.41 ml) was added. The mixture was concentrated. The solid was washed with water and ether and dried to give 129 mg of (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid as a colorless solid. MS: 392 ([M+H]+).

reactant | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester hydrochloride | 172 mg | Cl.C(C)OC(C(C1=C(C=C(C(=C1)OCC)OCCO)F)NC1=CC=C(C=C1)C(N)=N)=O
reactant | NaOH | 1 M, 0.82 ml | [OH-].[Na+]
reactant | HCl | 1M, 0.41 ml | Cl | ClH
solvent | THF | 1.1 ml | C1CCOC1 | C4H8O
product | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid | 129 mg | C(N)(=N)C1=CC=C(C=C1)NC(C(=O)O)C1=C(C=C(C(=C1)OCC)OCCO)F | C19H22FN3O5
